US05175166
1-Methyl-1,4,5,6-tetrahydro-5-methoxycarbonylpyrimidine
1,4,5,6-Tetrahydro-5-methoxycarbonylpyrimidine hydrochloride (300 mg, 1.35 mmol) and NaH (60% in mineral oil 107 mg, 1.35 mmol) were suspended in anhydrous DMF (5 ml) in an oven dried round bottom flask with stirring under nitrogen. After stirring 15 minutes CH3I 84μl, 1.35 mmol) was added via syringe and stirring continued 3 hours at room temperature. The solvents were evaporated in vacuo and the residue triturated with chloroform. The resulting suspension was filtered and evaporated in vacuo. Chromatography (silica, chloroform/methanol, 9:1) gave 160 mg (76%) crystals mp 93°-95° C. identified by 300 MHz nmr; ms m/z=156.

reactant | 1,4,5,6-Tetrahydro-5-methoxycarbonylpyrimidine hydrochloride | 1.35 mmol, 300 mg | Cl.COC(=O)C1CN=CNC1
reactant | NaH | 1.35 mmol, 107 mg | [H-].[Na+]
reactant | CH3I | 1.35 mmol, 84μl | CI | CH3I
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-Methyl-1,4,5,6-tetrahydro-5-methoxycarbonylpyrimidine | 160 mg, 76% | CN1C=NCC(C1)C(=O)OC | C7H12N2O2
